US05834493
N-(2-bromo-ethyl)-4-fluoro-benzamide
4-fluoro-benzoyl chloride (3 ml; 0.026 mol) was added dropwise to a cold (~0° C.). Stirring mixture of 2-bromo-ethyl-amine hydrobromide (5 g; 0.0236 mol) and 10% aqueous sodium hydroxide (21 ml; 0.052 mol). Crystalline product started to precipitate out of the reaction mixture almost immediately. After 15 minutes of stirring, the product was collected by filtration, triturated with diethyl ether and dried under vacuum giving the desired compound as a white solid (4 g).

reactant | 4-fluoro-benzoyl chloride | 0.026 mol, 3 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 2-bromo-ethyl-amine hydrobromide | 0.0236 mol, 5 g | Br.BrCCN
reactant | sodium hydroxide | 0.052 mol, 21 ml | [OH-].[Na+]
product | N-(2-bromo-ethyl)-4-fluoro-benzamide | 4 g | BrCCNC(C1=CC=C(C=C1)F)=O | C9H9BrFNO
